US06342498B1
Following the procedures in the Step 3 of EXAMPLE 1, the reaction of 4-[(2-amino) ethyl]-1-(2-methoxyphenyl)piperazine (4.19 mmol) and chloroacetyl chloride (4.68 mmol) gave 4-[2-(α-bromo)acetamido)ethyl]-1-(2-methoxyphenyl)piperazine (409 mg, 31%)

reactant | 4-[(2-amino) ethyl]-1-(2-methoxyphenyl)piperazine | 4.19 mmol | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | chloroacetyl chloride | 4.68 mmol | ClCC(=O)Cl | C2H2Cl2O
product | 1-(2-methoxyphenyl)piperazine | 409 mg, 31% | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
